US03985804
Preparation of 3'-n-propoxy-2-methylbenzanilide
A 13.6 g (0.1 mol) portion of o-methylbenzoic acid and 15.1 g (0.1 mol) of m-n-propoxy-aniline were dissolved in 100 ml of chlorobenzene. An 11.9 g (0.1 mol) amount of thionylchloride was added dropwise to the prepared solution at 40° - 50° C, and the mixture was stirred at 90° - 95° C for 4 hours, whereby sulfur dioxide and hydrogen chloride were continuously generated. After the reaction, the reaction mixture was poured into ice water and extracted with a mixture of benzene and hexane. The product was recrystallized from the mixed solvent to obtain 23.6 g (88%) of white needles having a melting point of 92° -94° C.

reactant | o-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | m-n-propoxy-aniline | 0.1 mol, 15.1 g | C(CC)OC=1C=C(N)C=CC1 | C9H13NO
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrogen chloride | Cl | ClH
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3'-n-propoxy-2-methylbenzanilide | 23.6 g, 88% | C(CC)OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C17H19NO2
